US03965220
To a mixture of 225 g. phosphoryl chloride and methylamine there is added 109 g. cresol over a period of 2 hours at a temperature of 105°C. The temperature is held at 105°-110°C. for two hours to afford cresyl phosphorodichloridate.

reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methylamine | CN | CH5N
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
product | cresyl phosphorodichloridate | P(OC1=CC=C(C=C1)C)(=O)(Cl)Cl | C7H7Cl2O2P
